US06130351
A pressure reactor was charged with N-acetyliminodiacetic acid monohydrate (19.3 g), water (16.6 g), phosphorous acid (9.8 g) and toluenesulfonic acid monohydrate (35.2 g). The mixture was heated to 120° C. and 47% formaldehyde (5.8 mL) was added drop wise over a 3/4 hour period. After another 3/4 hour at 120° C. the mixture was cooled. The mixture was filtered and the solid was washed with water to give 16.5 g of N-(phosphonomethyl)iminodiacetic acid.

reactant | N-acetyliminodiacetic acid monohydrate | 19.3 g | O.C(C)(=O)N(CC(=O)O)CC(=O)O
reactant | phosphorous acid | 9.8 g | P(O)(O)O | H3O3P
reactant | toluenesulfonic acid monohydrate | 35.2 g | O.C=1(C(=CC=CC1)S(=O)(=O)O)C
reactant | formaldehyde | 5.8 mL | C=O | CH2O
solvent | water | 16.6 g | O | H2O
product | N-(phosphonomethyl)iminodiacetic acid | 16.5 g | P(=O)(O)(O)CN(CC(=O)O)CC(=O)O | C5H10NO7P
